US04742165
Ethyl N-ethoxycarbonylacetyl-3-ethylaminopropionate
To a mixture consisting of 45 g (0.30 mole) of ethyl 3-ethylaminopropionate, 37.3 g (0.27 mole) of potassium carbonate, 250 ml of toluene and 250 ml of water being stirred in an ice bath was added dropwise 67.7 g (0.45 mole) of ethylmalonyl chloride in 0.5 hour. Stirring was continued for further 3 hours at room temperature and the reaction mixture was subjected to phase separation. The toluene layer obtained was washed with a 5% aqueous HCl solution, a saturated aqueous sodium bicarbonate solution and a saturated aqueous NaCl solution in this order and then dried with anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove toluene, whereby 64.3 g of a desired product was obtained with an yield of 83%.

reactant | ethyl 3-ethylaminopropionate | 0.30 mole, 45 g | C(C)NCCC(=O)OCC | C7H15NO2
reactant | potassium carbonate | 0.27 mole, 37.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylmalonyl chloride | 0.45 mole, 67.7 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
solvent | water | 250 ml | O | H2O
product | Ethyl N-ethoxycarbonylacetyl-3-ethylaminopropionate | 64.3 g, yield of 83% | C(C)OC(=O)CC(=O)N(CCC(=O)OCC)CC | C12H21NO5
